US08486943B2
[(S)-7-Cyano-4-((2R,3R)-3-hydroxy-1-methyl-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
A solution of [(S)-7-cyano-4-((2R,3R)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester hydrochloride salt (380 mg, 907.1 μmol) in acetonitrile (50 mL) is treated with methanol (5 mL) until most of the solid is dissolved and then treated with formaldehyde (136.3 μL, 1.81 mmol) and sodium triacetoxyborohydride (400.5 mg, 1.81 mmol). The reaction is stirred at room temperature overnight. Saturated aqueous sodium bicarbonate solution (50 mL) is added and stirred for 30 min. The mixture is diluted with ethyl acetate (120 mL) and the resulting suspension is washed with water (3×100 mL) and brine. The organic portion is dried over sodium sulfate, filtered, and concentrated to dryness. The residue is purified by medium pressure liquid chromatography, eluting with methanol:chloroform (5:95). Fractions containing pure product are combined and concentrated to afford 0.2 g (61%) of the title compound. LC-ES/MS m/z 397.2 [M+H]+, TR=1.87 min.

reactant | [(S)-7-cyano-4-((2R,3R)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester hydrochloride salt | 907.1 μmol, 380 mg | Cl.C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)C[C@H]2NCC[C@H]2O)C1)=O
reactant | formaldehyde | 1.81 mmol, 136.3 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.81 mmol, 400.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | [(S)-7-Cyano-4-((2R,3R)-3-hydroxy-1-methyl-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 0.2 g, 61% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)C[C@H]2N(CC[C@H]2O)C)C1)=O | C22H28N4O3
